US08563565B2
Synthesis of 3-bromo-6-isopropyloxy-2,4-dimethylpyridine
KTB (222 mg) was added to a suspension of 5-bromo-4,6-dimethylpyridin-2-ol obtained in Preparation Example 23(1) (400 mg) in DME (2 mL), and the mixture was stirred at room temperature for 30 minutes. Potassium carbonate (192 mg) and 2-iodopropane (572 mg) were added to the reaction mixture. The mixture was heated under reflux overnight. The reaction mixture was cooled to mom temperature, and the insoluble matter was removed by filtration and washed with DME. The filtrate was concentrated under reduced pressure. Chloroform was added to the residue. The solution was washed with a 0.1 N aqueous hydrochloric acid solution. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 10% to 50%) to give the title compound (133.9 mg).

reactant | 5-bromo-4,6-dimethylpyridin-2-ol | BrC=1C(=CC(=NC1C)O)C | C7H8BrNO
reactant | Potassium carbonate | 192 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 572 mg | IC(C)C | C3H7I
solvent | DME | 2 mL | COCCOC | C4H10O2
product | 3-bromo-6-isopropyloxy-2,4-dimethylpyridine | 133.9 mg | BrC=1C(=NC(=CC1C)OC(C)C)C | C10H14BrNO
